US09193707B2
II-2. Synthesis of 5,6-dihydroxy-1,2,3,4-tetrahydroisoquinoline
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed tert-butyl 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylate (70 mg, 0.25 mmol, 1.00 equiv) and dichloromethane (30 mL). This was followed by the addition of BBr3 (187 mg) dropwise with stirring at 0° C. The resulting solution was stirred for 1 h at 0° C. in a water/ice bath. The resulting mixture was concentrated under vacuum. This resulted in 100 mg (crude) of 5,6-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide as a light yellow solid. MS (ESI) m/z 166 ([M+H-HBr]+).

reactant | tert-butyl 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylate | 0.25 mmol, 70 mg, 1.00 equiv | OC1=C2CCN(CC2=CC=C1OC)C(=O)OC(C)(C)C | C15H21NO4
reactant | BBr3 | 187 mg | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5,6-dihydroxy-1,2,3,4-tetrahydroisoquinoline | OC1=C2CCNCC2=CC=C1O | C9H11NO2
